US03994974
In 20 ml. of acetic anhydride there was dissolved 4.0 g. of 3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)aminomethyl] benzyl alcohol [A] prepared above and after heating the mixture to 65°-80° C for one hour and 30 minutes, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in a mixture of 15 ml. of methanol and 2.0 g. of potassium hydroxide and the solution was stirred for one hour at room temperature. Then, methanol was distilled off under reduced pressure and after water was added to the residue, the residue was extracted with benzene. The extract was washed with water, dried over anhydrous magnesium sulfate, and dried. Thereafter, by distilling off the solvent, 3.8 g. of a crystalline powder of 4-benzyloxy-3-acetylamino-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)aminomethyl] benzyl alcohol [A] was obtained. By recrystallizing 2.0 g. of the product thus obtained from 20 ml. of ethanol 1.6 g. of the crystalline pure product was obtained, melting at 141°-143° C.______________________________________Elemental analysis for C32H36N2O4 : C(%) H(%) N(%)______________________________________Calculated: 75.55 6.92 5.34Found: 75.62 7.03 5.21______________________________________

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)aminomethyl] benzyl alcohol | NC=1C=C(C(CN(C(CC2=CC=C(C=C2)O)C)CC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C31H34N2O3
product | 4-benzyloxy-3-acetylamino-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)aminomethyl] benzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=C(C(CN(C(CC2=CC=C(C=C2)O)C)CC2=CC=CC=C2)O)C=C1)NC(C)=O | C33H36N2O4
